US08431569B2
Step 6. 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide (2)
7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile (4.48 g, 12.3 mmol) and potassium carbonate (8.49 g, 61.4 mmol) were placed in a flask. DMSO (246 ml) and 30% hydrogen peroxide (12.55 ml, 123 mmol) were added and the solution heated at 80° C. for 2 h. Additional 30% hydrogen peroxide (12.55 mL, 123 mmol) and potassium carbonate (8.49 g, 61.4 mmol) were added. The resultant mixture was heated to 80° C. for 2 h, cooled to room temperature, and diluted with EtOAc. The mixture was washed with water and brine, dried (magnesium sulfate), concentrated, and purified by flash chromatography to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.81 (s, 1H); 8.54 (s, 1H); 8.50 (d, 1H); 7.96 (br s, 1H); 7.80 (d, 1H); 7.33 (br s, 1H); 7.30 (dd, 1H); 7.07 (d, 1H); 4.86 (m, 1H); 1.59 (m, 1H); 0.76 (m, 1H); 0.64 (m, 1H); 0.54 (m, 1H); 0.33 (m, 1H). LRMS (APCI) calc'd for (C17H14ClF3N4O) [M+H]+, 383.1. found 383.0.

reactant | 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | 12.3 mmol, 4.48 g | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C#N | C17H12ClF3N4
reactant | potassium carbonate | 61.4 mmol, 8.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 246 ml | CS(=O)C | C2H6OS
reactant | hydrogen peroxide | 123 mmol, 12.55 ml | OO | H2O2
reactant | hydrogen peroxide | 123 mmol, 12.55 mL | OO | H2O2
reactant | potassium carbonate | 61.4 mmol, 8.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N | C17H14ClF3N4O
